Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Starvation, suicidal ideation
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yoM with PMHx extrapulmonary sarcoidosis on prednisone and 
remicade as a transfer from ___ on S12 for SI with plan for 
starvation. The patient has a longstanding history of bipolar 
disorder. He reports that approximately 6 weeks ago he stopped 
eating with intent to kill himself. He was at ___ with 
his wife in the breast care clinic when presented to the ED 
there.  
 He has reportedly lost 30 pounds in the past 6 weeks since 
stopping eating. He states he felt particularly weak and dizzy 
since waking up this morning. Patient states he has fallen 
multiple times over the last few weeks due to weakness. Patient 
has a history of a suicide attempt by acetaminophen overdose in 
the past necessitating ICU admission. Patient denies any 
ingestions.  
 In the ED, initial vitals were:  
 97, 70, 108/59 20 100% RA;  
 Orthostatic with BP 88/57 on standing and HR 91 on standing  
 
 -Labs @ ___:  
 WBC 3.6, H&H 13.5/39.8, plt 113  
 Na 137, K 3.6, Cl 93, HCO3 22, BUN 13, Cr 1.1  
 CK 42  
 Ca 9.1, Mg 1.8  
 ASA, Tylenol, EtOH neg, Tox screen + for benzo, THC (neg ___, 
___, Coc, methadone, opiate, TCA)  
 Labs at ___:  
 WBC 2.7 Neut 17.6%  
 Hgb 12.2  
 Plt 85  
 AP 37  
 ALT 15, AST 16, Albumin 3.9, Tbili 0.6  
 Mg 1.7  
 P2.8  
 Ca 7.8  
 Chem 7 notable for K 3.4 after repletion BUN/Cr ___  
 Urine tox: negative  
 UA: 150 ketones, trace proteins, RBC 4, WBC 2  
 - Imaging was notable for:  
 NCHCT, CXR unremarkable @ ___  
 ECG: QTc of 400, otherwise sinus rhythm  
 - Patient was given:  
 ___ 20:53 PO Potassium Chloride 40 mEq  
 ___ 21:09 IVF D5NS + 40 mEq Potassium Chloride Started 
250 mL/hr  
 ___ 23:09 PO/NG Gabapentin 100 mg  
 ___ 23:09 PO/NG LORazepam 1 mg  
 ___ 23:09 PO Divalproex (DELayed Release) 1000 mg  
 ___ 23:09 PO Omeprazole 40 mg  
 ___ 01:20 IVF D5NS + 40 mEq Potassium Chloride  
 ___ 01:20 PO/NG Magnesium Oxide 400 mg  
 ___ 09:10 PO/NG Gabapentin 100 mg  
 ___ 09:10 PO/NG LamoTRIgine 25 mg  
 ___ 09:10 PO/NG ARIPiprazole 2 mg  
 ___ 09:10 PO Omeprazole 40 mg  
 ___ 10:03 PO/NG PredniSONE 7.5 mg  
 ___ 15:00 IVF 40 mEq Potassium Chloride / D5NS 
___ Started 100 mL/hr stopped after 2 hours.  
 REVIEW OF SYSTEMS:  
 (+) Per HPI  
 (-) 10 point ROS reviewed and negative unless stated above in 
HPI  

 
Past Medical History:
Fulminant liver failure likely secondary to tylenol ingestion 
requiring 23-day hospitalization in ___ at ___
Portal hypertension with minimal ascites noted in ___, 
possibly acute ___ tylenol ingestion
Gastroparesis (confirmed with gastric emptying study ___
Sarcoidosis with extra-pulmonary symptoms (primarily myalgias 
and joint pain), previously on steroids 
Pernicious anemia
B12 deficiency
Iron deficiency anemia
Hypercholesterolemia
Diabetes Mellitus non-insulin dependent
GERD
Depression
Paroxysmal atrial fibrillation
 
Social History:
___
Family History:
Significant heart disease, stroke, MS, dementia; no known liver 
history. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VITAL SIGNS: 97.6 94/60 74 16 97% Ra  
Admission Wt 143.5 lb, (last weight in OMR dated ___ 160)  
GENERAL: Well appearing, thin, sitting comfortably in bed  
HEENT: PEERL, OP clear  
NECK: supple, no JVD  
CARDIAC: RRR, no MRG  
LUNGS: CTAB  
ABDOMEN: soft, nt, nd  
EXTREMITIES: scattered healing wounds over both legs, no edema 
or cyanosis  
SKIN: no suspicious rashes  

DISCHARGE PHYSICAL EXAM
Vitals- 97.9 99-114/60-70 ___ 18 96-99RA. Discharge weight: 
154 lbs
General- NAD, listless
HEENT- Sclera anicteric, MMM, oropharynx clear  
Lungs- Clear to auscultation bilaterally, no w/r/r 
CV- RRR, normal S1 + S2, no murmurs, rubs, gallops  
Abdomen- soft, ND, bowel sounds present, no rebound tenderness 
or guarding, slight discomfort with palpation
GU- no foley  
Ext- warm, well perfused. no clubbing, cyanosis or edema
 
Pertinent Results:
ADMISSION LABS
---------------
___ 06:40PM BLOOD WBC-2.7* RBC-4.66 Hgb-12.2* Hct-37.7* 
MCV-81* MCH-26.2 MCHC-32.4 RDW-15.7* RDWSD-45.9 Plt Ct-85*#
___ 06:40PM BLOOD Neuts-17.6* Lymphs-74.8* Monos-6.9 
Eos-0.0* Baso-0.7 AbsNeut-0.48*# AbsLymp-2.05 AbsMono-0.19* 
AbsEos-0.00* AbsBaso-0.02
___ 06:40PM BLOOD Plt Smr-LOW Plt Ct-85*#
___ 06:40PM BLOOD Glucose-79 UreaN-12 Creat-1.1 Na-135 
K-3.1* Cl-94* HCO3-19* AnGap-25*
___ 06:40PM BLOOD ALT-15 AST-16 AlkPhos-37* TotBili-0.6
___ 06:40PM BLOOD Albumin-3.9 Calcium-8.0* Phos-2.8 Mg-1.7
___ 06:01AM BLOOD TSH-2.2
___ 06:40PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

MICROBIOLOGY
-------------
___ 10:10 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

DISCHARGE/INTERVAL LABS
___ 05:50AM BLOOD WBC-3.4* RBC-3.90* Hgb-10.8* Hct-33.0* 
MCV-85 MCH-27.7 MCHC-32.7 RDW-16.1* RDWSD-49.1* Plt Ct-64*
___ 06:00AM BLOOD Neuts-40.1 ___ Monos-10.8 
Eos-0.2* Baso-0.5 Im ___ AbsNeut-1.64 AbsLymp-1.97 
AbsMono-0.44 AbsEos-0.01* AbsBaso-0.02
___ 05:50AM BLOOD Glucose-229* UreaN-12 Creat-0.8 Na-138 
K-4.0 Cl-100 HCO3-27 AnGap-15
___ 12:55AM BLOOD ALT-12 AST-16 LD(LDH)-118 AlkPhos-41 
TotBili-0.5
___ 07:00AM BLOOD Calcium-8.4 Phos-2.8 Mg-1.8 Iron-26*
___ 07:00AM BLOOD calTIBC-207* Ferritn-74 TRF-159*
___ 06:01AM BLOOD TSH-2.2
___ 09:33PM BLOOD Valproa-52
 
Brief Hospital Course:
Mr. ___ is a ___ y/o M with extrapulmonary sarcoidosis, 
gastroparesis, and severe depression who presents with suicidal 
ideations through active starvation, admitted under ___ 
for the eating disorder protocol. He is medically cleared for 
transfer to inpatient psychiatry.

#Malnourishment: Patient states that he has not been eating for 
the past 6 weeks with the intent of starving himself. He has 
experienced multiple falls per day and has had at least a 15 
pound weight loss over the past six weeks. He was admitted for 
the eating disorder protocol and was monitored for risk of 
refeeding syndrome. Electrolytes required intermittent repletion 
with Neutra-Phos packets. After a multidisciplinary meeting 
between nutrition, social work, psychiatry, and the primary 
team, the protocol was discontinued with the condition being 
that he eat three meals each day. He gained weight each day of 
his stay. Weight on admission: 65 kg. Weight on discharge: 70 
kg. 

#Unspecified, bipolar disorder: Patient has a history of suicide 
attempts. Patient was evaluated in the ED by psychiatry and is 
now under ___, with a 1:1 sitter. He will continue with 
his current psychiatric medication regimen until transfer to 
inpatient psychiatry for further modifications. He was continued 
on home Gabapentin 100mg PO BID, Lamotrigine 100mg daily, 
Lorazepam 1mg QHS, Depakote ___ 1000mg QHS, and Abilify 2mg 
daily. 

#Pancytopenia
#Thrombocytopenia
#Anemia of chronic disease: Pancytopenia likely exacerbated by 
his profound malnourishment given his normal CBC 6 weeks prior 
to admission. Patient does have a history of cytopenias related 
to his sarcoidosis, for which he follows with a hematologist at 
___.

CHRONIC ISSUES: 
===============
#Extrapulmonary sarcoidosis: On Methotrexate 10 mg weekly and 
remicade infusions. Methotrexate were held in the setting of 
pancytopenia.

#Gastroparesis: QTc on admission was 393. Home Metoclopramide 
was held as patient is currently on multiple QTc prolonging 
agents. 

#GERD: Continue pantoprazole 40 mg BID 

TRANSITIONAL ISSUES
=====================
[ ] Discuss with outpatient hematologist (___) about history of 
pancytopenia and restarting methotrexate
[ ] Monitor FSBG as patient is taking Prednisone daily
[ ] Consider modification of psychiatric medication regimen as 
patient remains listless on assessment
[ ] Ensure that patient is eating three meals per day
[ ] Weight on admission: 65 kg. Weight on discharge: 70 kg. 
# CODE: full 
# CONTACT: ___ (Wife and HCP) Phone number: 
___ 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ondansetron 4 mg PO Q8H:PRN nausea 
2. Divalproex (DELayed Release) 1000 mg PO QHS 
3. FoLIC Acid 1 mg PO DAILY 
4. Gabapentin 100 mg PO BID 
5. LamoTRIgine 100 mg PO DAILY 
6. Metoclopramide 10 mg PO TID W/MEALS 
7. Pantoprazole 40 mg PO Q24H 
8. Vitamin D 1000 UNIT PO DAILY 
9. Cyanocobalamin 500 mcg PO DAILY 
10. ARIPiprazole 2 mg PO DAILY 
11. Pregabalin 75 mg PO BID 
12. Methotrexate 10 mg PO QTUES 
13. PredniSONE 7.5 mg PO DAILY 
14. Omeprazole 40 mg PO QAM 
15. LORazepam 1 mg PO QHS:PRN anxiety 

 
Discharge Medications:
1.  ARIPiprazole 2 mg PO DAILY  
2.  Cyanocobalamin 500 mcg PO DAILY  
3.  Divalproex (DELayed Release) 1000 mg PO QHS  
4.  FoLIC Acid 1 mg PO DAILY  
5.  Gabapentin 100 mg PO BID  
6.  LamoTRIgine 100 mg PO DAILY  
7.  LORazepam 1 mg PO QHS:PRN anxiety  
8.  Pantoprazole 40 mg PO Q24H  
9.  PredniSONE 7.5 mg PO DAILY  
10.  Pregabalin 75 mg PO BID  
11.  Vitamin D 1000 UNIT PO DAILY  
12. HELD- Methotrexate 10 mg PO QTUES  This medication was held. 
Do not restart Methotrexate until his 
rheumatologist/hematologist is spoken with
13. HELD- Metoclopramide 10 mg PO TID W/MEALS  This medication 
was held. Do not restart Metoclopramide until patient is on 
stable psychiatric medication regimen

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnoses: Malnourishment, active suicidal ideations, 
pancytopenia

Secondary diagnoses: Extrapulmonary sarcoidosis, GERD, 
Gastroparesis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Lethargic but arousable.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized at ___ after you endorsed suicidal 
thoughts by active starvation. You were placed on an eating 
protocol to improve your nutritional supplementation. Your 
electrolytes were monitored and required minimal repletion.

Your CBC on presentation was also decreased, in all cell lines. 
It is likely exacerbated by your profound malnourished state. We 
expect it to slowly recover as you continue to eat regular 
meals.

You were also evaluated by psychiatry and kept on a stable 
medication regimen. Any medication changes that will be made 
will occur once you are transferred to the inpatient psychiatry 
facility.

It was a pleasure taking care of you! We wish you the best!

Your ___ Team
 
Followup Instructions:
___